US04505913
In a manner analogous to that described in Example 1, the reaction of 5-(N-ethylsulfamoyl)-isatoic anhydride with 1-methylpiperazine yields 5-(N-ethylsulfamoyl)-anthranilic acid (4-methyl)-piperazide with a melting point of 175°-177° (from acetone/ethanol).

reactant | 5-(N-ethylsulfamoyl)-isatoic anhydride | C(C)NS(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C10H10N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | acetone ethanol | CC(=O)C.C(C)O
product | 5-(N-ethylsulfamoyl)-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NCC)(=O)=O)=O | C14H22N4O3S
